US05714498
n-Butyl lithium (2.5M in hexanes, 14 ml, 35 mmol) was carefully added to a cold (<0° C.) suspension of 3-phenylpropyltriphenylphosphonium bromide (18.7 g, 40.5 mmol) in THF (100 ml) under a nitrogen atmosphere at such a rate that the temperature did not exceed 0° C. The orange solution was stirred at <0° C. for 30 minutes before a solution of 1-(tert-butyloxycarbonyl)-4-piperidone (5.0 g, 27 mmol) was added as a solution in THF (20 ml) at such a rate that the temperature did not exceed 0° C. The mixture was stirred at 0° C. for 1 hour and then allowed to warm to room temperature before adding water (20 ml). The mixture was concentrated in vacuo and the residue extracted into dichloromethane (3×100 ml). The combined organics were washed with water (20 ml) and brine (20 ml), dried (MgSO4) and evaporated in vacuo to give a yellow oil. The oil was purified by column chromatography on silica eluting with 10% EtOAc/petrol 60/80 to give a clear oil. The oil was dissolved in dichloromethane (30 ml) and treated with trifluoroacetic acid (20 ml) and the mixture stirred at room temperature for 1.5 h. The solution was evaporated in vacuo and azeotroped with toluene (2×10 ml). The residue was dissolved in EtOAc (20 ml) and washed with sodium carbonate (saturated, 2×10 ml), water (10 ml) and brine (10 ml), dried (MgSO4) and evaporated in vacuo to give 4-(3-phenylpropylidene) piperidine as a pale oily solid (4.92 g, 90%).

reactant | n-Butyl lithium | 35 mmol, 2.5M, 14 ml | C(CCC)[Li]
reactant | 3-phenylpropyltriphenylphosphonium bromide | 40.5 mmol, 18.7 g | [Br-].C1(=CC=CC=C1)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-(tert-butyloxycarbonyl)-4-piperidone | 27 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 4-(3-phenylpropylidene) piperidine | 4.92 g, 90% | C1(=CC=CC=C1)CCC=C1CCNCC1 | C14H19N
